Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine / Gadolinium-Containing Contrast Media
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
EUS and ERCP

attach
 
Pertinent Results:
Admission Labs:
===============
___ 08:37PM BLOOD WBC-3.3* RBC-4.40 Hgb-11.6 Hct-37.1 
MCV-84 MCH-26.4 MCHC-31.3* RDW-14.6 RDWSD-44.7 Plt ___
___ 08:37PM BLOOD Neuts-49.9 ___ Monos-10.1 Eos-6.1 
Baso-0.6 Im ___ AbsNeut-1.63 AbsLymp-1.08* AbsMono-0.33 
AbsEos-0.20 AbsBaso-0.02
___ 08:37PM BLOOD ___ PTT-27.8 ___
___ 08:37PM BLOOD Glucose-266* UreaN-30* Creat-0.7 Na-135 
K-4.1 Cl-101 HCO3-22 AnGap-12
___ 08:37PM BLOOD ALT-173* AST-59* AlkPhos-111* TotBili-0.2
___ 07:55AM BLOOD Calcium-9.3 Phos-3.5 Mg-1.9

Imaging:
========
RUQ US:
1. Mild dilatation of the intrahepatic biliary ducts and common 
bile duct.  Although no stones are identified within the 
gallbladder, these findings raise the possibility of distal 
obstruction.  An MRCP or ERCP is recommended for further 
assessment. 
2. Echogenic liver. 
3. Nonobstructing left renal stone, measuring 4 mm.  No left 
hydronephrosis. 

MRCP:
1. Examination limited by motion artifact and by the absence of 
intravenous contrast. 
2. Mild intrahepatic and extrahepatic biliary ductal dilation 
without an 
obstructing lesion or stone identified. Differential 
considerations include ampullary stenosis and sphincter of Oddi 
dysfunction. 
3. There are incidental hepatic lesions with suspicious imaging 
features.  
Recommend multiphasic liver CT for further evaluation.   
RECOMMENDATION(S):  Multiphasic liver CT (CT abdomen with and 
without 
contrast, request "multiphasic liver".

Discharge Labs:
=============== 
___ 04:35AM BLOOD WBC-5.2 RBC-3.83* Hgb-9.9* Hct-32.3* 
MCV-84 MCH-25.8* MCHC-30.7* RDW-14.6 RDWSD-44.4 Plt ___
___ 04:35AM BLOOD Glucose-128* UreaN-24* Creat-0.9 Na-139 
K-4.0 Cl-102 HCO3-24 AnGap-13
___ 04:35AM BLOOD ALT-277* AST-132* AlkPhos-141* 
TotBili-0.3
___ 04:35AM BLOOD Calcium-8.9 Phos-3.6 Mg-1.___ female with history of fatty liver disease, DM, HTN, 
referred by PCPs office for abnormal LFTs found to have biliary 
dilation concerning for choledocholithiasis.

# Biliary Dilation
# Choledocholithiasis
Patient presented with new onset abdominal pain with LFT 
abnormalities and biliary dilation on ultrasound concerning for 
choledocholithiasis vs. other bile duct stenosis. She had no 
leukocytosis, tachycardia, and was well appearing and therefore
there was low suspicion for cholangitis. MRCP showed mild 
biliary ductal
dilation with no stones visualized. Due to rising LFTs she 
underwent EUS which revealed a stone missed by MRCP. ERCP was 
performed with sphincterotomy and removal of sludge.
Post-ERCP she developed some mild abdominal discomfort. Lipase 
was 204, possibly consistent with very mild post-ERCP 
pancreatitis. She was treated with IV fluids. Diet was advanced 
from clears to regular and she was tolerating a regular diet at 
time of discharge. LFTs were also downtrending at discharge.
She should have a cholecystectomy as an outpatient but is 
currently somewhat reluctant to consider this.
Given primary hepatocellular pattern of LFT elevation, hepatitis 
serologies were obtained and revealed history of prior HBV 
exposure with negative HAV IgM and HCV ___ was mildly 
elevated in a 1:40 titer. AMA and SMA were negative.

# Liver lesions:
MRCP revealed incidental liver lesions, possibly consistent with 
hemangioma per discussion with radiology but also concerning for 
malignancy. Multiphasic CT was recommended for further 
evaluation vs. MRI with contrast.
A long discussion was held with patient along with phone 
interpreter. She declined CT due to concerns over radiation 
exposure, despite understanding the potential of malignancy and 
need for timely diagnosis if this were the case. Attempted to 
reassure her regarding total amount of radiation but she 
continued to decline. She also has a listed allergy to MRI 
contrast with low suspicion for true allergy (itchiness with no 
rash), though she also declined MRI with contrast. She is 
planning to discuss this further with her primary care doctor 
during her follow up appointment tomorrow, day after discharge.

# HLD: continued home pravastatin

# DM
Last HbA1c was 9.5 on ___, repeat HbA1c here 12.6%. Held 
home oral hypoglycemic while hospitalized and placed on ISS with 
bedtime lantus. She will follow up with her primary care doctor. 
Given HbA1c > 10%, may require insulin initiation as an 
outpatient

# HTN: continued home losartan

> 30 minutes spent on discharge coordination and planning

Transitional Issues:
====================
- has suspicious liver lesions and needs multiphasic CT vs. MRI 
with contrast to further evaluate
- needs CCY with outpatient surgery referral
- HbA1c here elevated from prior at 12.6%, may need insulin 
initiation as an outpatient
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. MetFORMIN (Glucophage) 1000 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Pravastatin 20 mg PO QPM 
5. GlipiZIDE XL 10 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  GlipiZIDE XL 10 mg PO DAILY  
3.  Losartan Potassium 100 mg PO DAILY  
4.  MetFORMIN (Glucophage) 1000 mg PO BID  
5.  Pravastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Choledocholithiasis
___

Secondary:
DM2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came in with abdominal pain. We found that your liver 
function tests were high. You had an endoscopic ultrasound that 
showed a stone in your bile duct. You had an ERCP procedure to 
clean out the duct and remove the stone.

While you were here, you had an MRI that showed several spots on 
your liver. You should have a CT scan to obtain a better picture 
of these spots, and to exclude cancer. Please discuss this more 
with Dr. ___ you see her tomorrow.

We also recommend having your gallbladder removed in order to 
prevent more problems with gallstones in the future. You can 
also discuss this with Dr. ___.

It was a pleasure taking care of you, and we are happy that 
you're feeling better!
 
Followup Instructions:
___